US05530019
Step 1: Preparation of 4'-isobutylvalerophenone
A mixture of valeryl chloride and aluminium chloride in dichloromethane was stirred at 0° C. for 30 minutes, and then isobutylbenzene was added. After stirring at 0° C. for 1 hour, the mixture was poured into ice water and extracted with dichloromethane. The organic layer was washed with an aqueous solution of sodium bicarbonate and brine, dried over magnesium sulfate and concentrated to give the object compound.

reactant | valeryl chloride | C(CCCC)(=O)Cl | C5H9ClO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isobutylbenzene | C(C(C)C)C1=CC=CC=C1 | C10H14
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4'-isobutylvalerophenone | C(C(C)C)C1=CC=C(C=C1)C(CCCC)=O | C15H22O
